US06191124B1
3-(2-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-propene-1-one (Formula P-2, X=0), 0.94 g, was reduced with LiAlH4 by non-critical variations of EXAMPLE 23 to provide α-[2-(2-Furanyl)ethyl]-6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-methanol (Formula P-5, X=0), after two crystallizations from ethanol.

reactant | 3-(2-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-propene-1-one | O1C(=CC=C1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C17H16N2O2S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | α-[2-(2-Furanyl)ethyl]-6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-methanol | O1C(=CC=C1)CCC(O)C1=CN=C2SC3=C(N21)CCCCC3 | C17H20N2O2S
